2158-10-01 07:15:00 Physician Resident Progress Note
Chief Complaint: dyspnea, hypoxemia
   24 Hour Events:
   none
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   History obtained from [**Hospital 19**] Medical recordsIbuprofen
   Anaphylaxis; pt
   Nsaids
   Anaphylaxis;
   Other ICU medications:
   Pantoprazole (Protonix) - [**2158-10-1**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2158-10-1**] 12:00 AM
   Changes to medical and family history:
   n/a
   Review of systems is unchanged from admission except as noted below
   Review of systems: Breathing comfortably at rest; mild nonproductive
   cough; denies lightheadedness, syncope, chest pain, palpitations,
   wheezing
   Flowsheet Data as of  [**2158-10-1**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 108 (97 - 109) bpm
   BP: 156/81(99) {135/72(91) - 156/90(103)} mmHg
   RR: 24 (20 - 27) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
                  Total In:
                                                                    500 mL
                                                                    240 mL
   PO:
                  240 mL
   TF:
   IVF:
                                                                    500 mL
   [**Known lastname **] products:
   Total out:
                                                                    300 mL
                                                                    450 mL
   Urine:
                                                                    300 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    200 mL
                                                                   -210 mL
   Respiratory support
   O2 Delivery Device: High flow neb 15L 60%FiO2
   SpO2: 94%
   ABG: 7.46/31/149/23/0 (drawn on 80%FiO2)
   PaO2 / FiO2: 248
   Physical Examination
   GENERAL: Well-appearing obese man, resp mildly labored
   NECK: JVD difficult to assess due to habitus
   CARDIAC: reg tachy nl S1 loud P2 no m/r/g
   LUNGS: bibasilar dry crackles no wheeze/rhonchi
   ABDOMEN: soft obese nontender nondistended
   EXT: warm, dry +PP 1+ pitting edema, +clubbing
   Labs / Radiology
   215 K/uL
   12.3 g/dL
   130 mg/dL
   1.8 mg/dL
   23 mEq/L
   4.1 mEq/L
   19 mg/dL
   109 mEq/L
   141 mEq/L
   37.2 %
   7.6 K/uL
        [image002.jpg]
                            [**2158-9-30**]  09:17 PM
                            [**2158-9-30**]  09:35 PM
                             [**2158-10-1**]  04:03 AM
   WBC
   8.2
   7.6
   Hct
   36.4
   37.2
   Plt
   226
   215
   Cr
   1.8
   1.8
   TropT
   <0.01
   <0.01
   TCO2
   23
   Glucose
   124
   130
   Other labs: PT / PTT / INR:12.9/22.3/1.1, CK / CKMB /
   Troponin-T:66//<0.01, Lactic Acid:2.1 mmol/L, Ca++:8.8 mg/dL, Mg++:2.0
   mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   61M with IPF and emphysema complicated by pulmonary hypertension on
   home oxygen transferred from OSH after being admitted following a
   syncopal episode for further evaluation and management of progressive
   dyspnea and hypoxemia.
   .
   #Dyspnea/hypoxemia - suspected acute exacerbation of IPF vs.
   progressive of pulmonary hypertension
   -supplemental O2 to maintain O2sat>89%; low PaO2/FiO2 ratio reflects
   severely impaired gas exchange
   -would avoid steroids as has had poor response in the past and current
   clinical scenario unlikely to represent an inflammatory process
   -cont NAc
   -cont spiriva, nebs prn
   -advair in place of symbicort (nonformulary)
   -HRCT chest to eval for progression of disease
   -must weigh benefits/risks of CTA to exclude acute/chronic venous
   thromboembolic disease given comorbid CKD and anticipated dye load for
   right heart cath
   -plan for right heart cath [**10-2**]
   -TTE to evaluate degree of pulm HTN, RV function
   -repeat PFTs when acute illness has subsided
   -consider PDE5 inhibitor or endothelin receptor antagonist therapy for
   pulmonary hypertension pending RHC results
   .
   #Syncope - most likely due to acute hyperventilation and/or hypoxemia;
   ddx also includes worsening pulm HTN, PE; no evidence of ischemia by
   EKG or biomarkers; telemetry without evidence of arrhythmia
   -telemetry
   -consider CTA, as above
   -TTE, as above
   .
   #ETOH abuse
   -valium CIWA
   -MVI, folate, thiamine
   .
   #CKD
   -restart ACEi, lasix
   -renally dose meds
   .
   #FEN: low sodium diet
   .
   #PPX: SQH
   .
   #ACCESS: 20 g, 18 g PIV
   .
   #CODE: FULL
   .
   #CONTACT: [**Name (NI) 4217**] [**Name (NI) **], wife, [**Telephone/Fax (1) 9693**]
   .
   #DISPO: Transfer to floor if able to wean O2
   ICU Care
   Nutrition: low sodium diet
   Glycemic Control:  [**Known lastname **] sugar well controlled
   Lines:
   20 Gauge - [**2158-9-30**] 09:56 PM
   18 Gauge - [**2158-9-30**] 09:56 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication: ICU consent signed
   Code status: Full code
   Disposition: Transfer to floor if able to wean O2

2158-10-01 09:01:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - O2, NAC
   - No steroids
   Allergies:
   Ibuprofen
   Anaphylaxis; pt
   Nsaids
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2158-10-1**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2158-10-1**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-10-1**] 09:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.5
C (97.7
   HR: 105 (97 - 109) bpm
   BP: 123/75(135) {123/72(91) - 156/90(135)} mmHg
   RR: 20 (19 - 27) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    500 mL
                                                                    440 mL
   PO:
                  440 mL
   TF:
   IVF:
                                                                    500 mL
   [**Known lastname **] products:
   Total out:
                                                                    300 mL
                                                                    450 mL
   Urine:
                                                                    300 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    200 mL
                                                                    -10 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 94%
   ABG: 7.46/31/149/23/0
   PaO2 / FiO2: 248
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles at bases R ([**1-3**]) >L
   ([**12-3**]): )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   12.3 g/dL
   215 K/uL
   130 mg/dL
   1.8 mg/dL
   23 mEq/L
   4.1 mEq/L
   19 mg/dL
   109 mEq/L
   141 mEq/L
   37.2 %
   7.6 K/uL
        [image002.jpg]
                            [**2158-9-30**]  09:17 PM
                            [**2158-9-30**]  09:35 PM
                             [**2158-10-1**]  04:03 AM
   WBC
   8.2
   7.6
   Hct
   36.4
   37.2
   Plt
   226
   215
   Cr
   1.8
   1.8
   TropT
   <0.01
   <0.01
   TCO2
   23
   Glucose
   124
   130
   Other labs: PT / PTT / INR:12.9/22.3/1.1, CK / CKMB /
   Troponin-T:66//<0.01, Lactic Acid:2.1 mmol/L, Ca++:8.8 mg/dL, Mg++:2.0
   mg/dL, PO4:2.8 mg/dL
   Fluid analysis / Other labs: 7.46/31/149 on 100% FiO2
   Imaging: CXR - RLL reticular opacities at baseline [**7-9**]
   Assessment and Plan
   61M with IPF and emphysema complicated by pulmonary hypertension on
   home oxygen transferred from OSH after being admitted following a
   syncopal episode for further evaluation and management of hypoxemia.
   SOB has been progressively worsening over past few months with an acute
   worsening over past week.
   #Hypoxemia - suspected acute exacerbation of IPF as no evidence of
   underlying infection or left heart failure
   - Supplemental O2 to maintain O2sat>92%
   - Would avoid steroids as has had poor response in the past and current
   clinical scenario unlikely to represent an inflammatory process
   - Cont NAc, symbicort, spiriva, nebs prn
   - Primary pulmonolgist has considered PE-CT, but concerned about
   contrast load given CKD. Also, may get contrast dye with RHC tomorrow.
   With discuss non-contrast HRCT chest with [**Doctor Last Name 104**] tonight
   - Plan for right heart cath [**10-2**]. Consider PDE5 inhibitor or endothelin
   receptor antagonist therapy for pulmonary hypertension pending RHC
   results.
   - TTE to evaluate degree of pulm HTN, RV function
   #Syncope - most likely due to hypoxemia or worsening pulm HTN.  Other
   potential etiologies include PE, cardiac ischemia, arrhythymia
   - Ruling out MI with serial cardiac biomarkers
   - Telemetry
   - Consider CTA, as above
   - TTE, as above
   #ETOH abuse
   - Valium CIWA
   - MVI, folate, thiamine
   #CKD: Creatinine likely at baseline
   - Restart ACEi, lasix
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2158-9-30**] 09:56 PM
   18 Gauge - [**2158-9-30**] 09:56 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   CRITICAL CARE ATTENDING ADDENDUM
   (Above note by Dr. [**Last Name (STitle) 2956**].)
   I saw and examined Mr. [**Known lastname **] with Dr. [**Last Name (STitle) 2956**], whose note above reflects
   my input.  Says his dyspnea feels substantially better with the
   oxygen.  On exam, regular with murmur.  Basilar crackles.  Labs, meds,
   imaging all reviewed.  61 y/o man with IPF and emphysema, as well as
   pulmonary hypertension.  Admitted with syncope, hypoxemia, and resp
   distress.  We will continue oxygen, NAC, symbicort, spiriva, and
   bronchodilators.  Dr. [**Last Name (STitle) 104**] is in covering the MICU tonight and is
   Mr. [**Known lastname **]
s primary pulmonologist and it makes sense for him to choose
   next course of therapy.  As described above, RHC with sildenafil,
   high-res CT, etc., all reasonable approaches.  Other issues as
   described above.

2158-10-02 07:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   no major overnight events reported.
   Dr. [**Last Name (STitle) **] prefers CTA to RHC as initial test.
   Allergies:
   Ibuprofen
   Anaphylaxis; pt
   Nsaids
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2158-10-2**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-10-2**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.2
C (98.9
   HR: 103 (93 - 114) bpm
   BP: 134/77(93) {115/62(77) - 149/85(135)} mmHg
   RR: 24 (15 - 28) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
                  Total In:
                                                                    920 mL
                                                                    120 mL
   PO:
                                                                    920 mL
                                                                    120 mL
   TF:
   IVF:
   [**Known lastname **] products:
   Total out:
                                                                  2,010 mL
                                                                    400 mL
   Urine:
                                                                  2,010 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,090 mL
                                                                   -280 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 93%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Coarse crackles at bases
   RRR, loud s2, normal s1.
   1+ pitting edema limited to ankles
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   218 K/uL
   12.4 g/dL
   117 mg/dL
   1.7 mg/dL
   23 mEq/L
   4.3 mEq/L
   18 mg/dL
   107 mEq/L
   140 mEq/L
   36.9 %
   8.1 K/uL
        [image002.jpg]
                            [**2158-9-30**]  09:17 PM
                            [**2158-9-30**]  09:35 PM
                             [**2158-10-1**]  04:03 AM
                             [**2158-10-2**]  04:52 AM
   WBC
   8.2
   7.6
   8.1
   Hct
   36.4
   37.2
   36.9
   Plt
   [**Telephone/Fax (3) 9711**]
   Cr
   1.8
   1.8
   1.7
   TropT
   <0.01
   <0.01
   TCO2
   23
   Glucose
   124
   130
   117
   Other labs: PT / PTT / INR:12.9/22.3/1.1, CK / CKMB /
   Troponin-T:66//<0.01, Lactic Acid:2.1 mmol/L, Ca++:8.6 mg/dL, Mg++:2.1
   mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 INTERSTITIAL LUNG DISEASE (ILD INCLUDING IPF, UIP, NSIP, DIP, LIP,
   ETC)
   61M with IPF and emphysema complicated by pulmonary hypertension on
   home oxygen transferred from OSH after being admitted following a
   syncopal episode for further evaluation and management of hypoxemia.
   SOB has been progressively worsening over past few months with an acute
   worsening over past week.
   #Hypoxemia - suspected acute exacerbation of IPF as no evidence of
   underlying infection or left heart failure
   - Supplemental O2 to maintain O2sat>92%
   - Would avoid steroids as has had poor response in the past and current
   clinical scenario unlikely to represent an inflammatory process
   - Cont NAc, symbicort, spiriva, nebs prn
   - Primary pulmonolgist , Dr. [**Last Name (STitle) **], has recommeded CTA first to
   exclude reversible causes. If negative, would then pursue RHC tomorrow
   - Plan for right heart cath [**10-2**] barring unexpected find in CTA.
   Consider PDE5 inhibitor or endothelin receptor antagonist therapy for
   pulmonary hypertension pending RHC results.
   - TTE today to evaluate degree of pulm HTN, RV function
   #Syncope - most likely due to hypoxemia or worsening pulm HTN.  Other
   potential etiologies include PE, cardiac ischemia, arrhythymia
   - Ruled out MI with serial cardiac biomarkers
   - Telemetry
   - CTA as above
   - TTE, as above
   #ETOH abuse
   - discontinue CIWA as outside window of withdrawal
   - MVI, folate, thiamine
   #CKD: Creatinine likely at baseline
   - Restart ACEi, lasix
   - pre-contrast hydration and mucomyst
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2158-9-30**] 09:56 PM
   18 Gauge - [**2158-9-30**] 09:56 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: pending clinical improvement, o2 requirement currently too
   high for floor

2158-10-02 10:29:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Weaned O2 as tolerated
   Allergies:
   Ibuprofen
   Anaphylaxis; pt
   Nsaids
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2158-10-2**] 08:00 AM
   Other medications:
   NAC, bicarb gtt, Thiamine, Folate, MV, Fluticasone diskus, Symbicort
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-10-2**] 10:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.9
C (98.4
   HR: 109 (93 - 114) bpm
   BP: 133/92(100) {115/58(75) - 149/92(100)} mmHg
   RR: 31 (15 - 31) insp/min
   SpO2: 89%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    920 mL
                                                                    676 mL
   PO:
                                                                    920 mL
                                                                    270 mL
   TF:
   IVF:
   406 mL
   [**Known lastname **] products:
   Total out:
                                                                  2,010 mL
                                                                    400 mL
   Urine:
                                                                  2,010 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,090 mL
                                                                    276 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 6 liters
   SpO2: 89%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : R>L bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   12.4 g/dL
   218 K/uL
   117 mg/dL
   1.7 mg/dL
   23 mEq/L
   4.3 mEq/L
   18 mg/dL
   107 mEq/L
   140 mEq/L
   36.9 %
   8.1 K/uL
        [image002.jpg]
                            [**2158-9-30**]  09:17 PM
                            [**2158-9-30**]  09:35 PM
                             [**2158-10-1**]  04:03 AM
                             [**2158-10-2**]  04:52 AM
   WBC
   8.2
   7.6
   8.1
   Hct
   36.4
   37.2
   36.9
   Plt
   [**Telephone/Fax (3) 9711**]
   Cr
   1.8
   1.8
   1.7
   TropT
   <0.01
   <0.01
   TCO2
   23
   Glucose
   124
   130
   117
   Other labs: PT / PTT / INR:12.9/22.3/1.1, CK / CKMB /
   Troponin-T:66//<0.01, Lactic Acid:2.1 mmol/L, Ca++:8.6 mg/dL, Mg++:2.1
   mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   61M with IPF and emphysema complicated by pulmonary hypertension on
   home oxygen transferred from OSH after being admitted following a
   syncopal episode for further evaluation and management of hypoxemia.
   SOB has been progressively worsening over past few months with an acute
   worsening over past week.
    #Hypoxemia - suspected acute exacerbation of IPF as no evidence of
   underlying infection or left heart failure
   - Supplemental O2 to maintain O2sat>92%
   - Would avoid steroids as has had poor response in the past and current
   clinical scenario unlikely to represent an inflammatory process
   - Cont NAc, symbicort, spiriva, nebs prn
   - Plan for CTA today to r/o acute event superimposed upon pulmonary
   fibrosis
   - RHC in future. [**Month (only) 8**] consider PDE5 inhibitor or endothelin receptor
   antagonist therapy for pulmonary hypertension pending RHC results.
   - TTE to evaluate degree of pulm HTN, RV function
   - Dr. [**Last Name (STitle) **] to discuss transplant status with patient today
   #Syncope - most likely due to hypoxemia or worsening pulm HTN.  Other
   potential etiologies include PE, cardiac ischemia, arrhythymia. Rulied
   out MI with serial cardiac biomarkers
   - Telemetry
   - CTA, as above
   - TTE, as above
   #CKD: Creatinine likely at baseline
   - Restart ACEi, lasix
   - Bicarb gtt for prophylaxis for CTA
   ICU Care
   Nutrition:
   Comments: Full diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2158-9-30**] 09:56 PM
   20 Gauge - [**2158-9-30**] 09:56 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : In ICU pending improvement in oxygen requirement
   Total time spent: 35 minutes
   Pt is critically ill

2158-10-03 07:17:00 Physician Resident Progress Note
Chief Complaint: syncope
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2158-10-2**] 02:55 PM
   CTA:
   1)No pulmonary embolism, aortic dissection or aneurysm.
    2)Significant progression of the predominantly subpleural abnormality
   associated with traction bronchiolectasis, reticulation, and new
   diffuse
   ground-glass opacities in the presence of significant enlargement of
   the hilar
   and mediastinal lymph nodes is worrying for and acute progression of
   IPF-
   UIP.
   3)Borderline pulmonary arterial enlargement suggests mild pulmonary
   arterial hypertension.
   .
   ECHO:
   Severe pulmonary artery systolic hypertension. Right ventricular cavity
   enlargement with free wall hypokinesis suggestive of a primary
   pulmonary process.
   .
   [**Doctor Last Name **] saw patient -recommended IV solumedrol (started 250mg q6h)
   Changed code status to DNR/DNI
   Hypertensive overnight 150s/100s -started amlodipine 5mg
   Allergies:
   Ibuprofen
   Anaphylaxis; pt
   Nsaids
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2158-10-3**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-10-3**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.1
C (96.9
   HR: 83 (82 - 109) bpm
   BP: 137/90(100) {119/57(72) - 173/116(128)} mmHg
   RR: 21 (8 - 31) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 267.2 kg (admission): 125 kg
             Total In:
                                                                  2,641 mL
                                                                    220 mL
   PO:
                                                                    960 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,681 mL
                                                                    100 mL
   [**Known lastname **] products:
   Total out:
                                                                  2,000 mL
                                                                    450 mL
   Urine:
                                                                  2,000 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    641 mL
                                                                   -230 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 90%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   205 K/uL
   12.8 g/dL
   211 mg/dL
   1.6 mg/dL
   24 mEq/L
   4.7 mEq/L
   16 mg/dL
   103 mEq/L
   138 mEq/L
   38.3 %
   5.5 K/uL
        [image002.jpg]
                            [**2158-9-30**]  09:17 PM
                            [**2158-9-30**]  09:35 PM
                             [**2158-10-1**]  04:03 AM
                             [**2158-10-2**]  04:52 AM
                             [**2158-10-3**]  04:04 AM
   WBC
   8.2
   7.6
   8.1
   5.5
   Hct
   36.4
   37.2
   36.9
   38.3
   Plt
   [**Telephone/Fax (3) 9733**]05
   Cr
   1.8
   1.8
   1.7
   1.6
   TropT
   <0.01
   <0.01
   TCO2
   23
   Glucose
   124
   130
   117
   211
   Other labs: PT / PTT / INR:12.9/22.3/1.1, CK / CKMB /
   Troponin-T:66//<0.01, Lactic Acid:2.1 mmol/L, Ca++:8.6 mg/dL, Mg++:2.1
   mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 INTERSTITIAL LUNG DISEASE (ILD INCLUDING IPF, UIP, NSIP, DIP, LIP,
   ETC)
   61M with IPF and emphysema complicated by pulmonary hypertension on
   home oxygen transferred from OSH after being admitted following a
   syncopal episode for further evaluation and management of hypoxemia.
   SOB has been progressively worsening over past few months with an acute
   worsening over past week.
   #Hypoxemia - suspected acute exacerbation of IPF as no evidence of
   underlying infection or left heart failure
   - Supplemental O2 to maintain O2sat>92%
   - Would avoid steroids as has had poor response in the past and current
   clinical scenario unlikely to represent an inflammatory process
   - Cont NAc, symbicort, spiriva, nebs prn
   - Primary pulmonolgist , Dr. [**Last Name (STitle) **], has recommeded CTA first to
   exclude reversible causes. If negative, would then pursue RHC tomorrow
   - Plan for right heart cath [**10-2**] barring unexpected find in CTA.
   Consider PDE5 inhibitor or endothelin receptor antagonist therapy for
   pulmonary hypertension pending RHC results.
   - TTE today to evaluate degree of pulm HTN, RV function
   #Syncope - most likely due to hypoxemia or worsening pulm HTN.  Other
   potential etiologies include PE, cardiac ischemia, arrhythymia
   - Ruled out MI with serial cardiac biomarkers
   - Telemetry
   - CTA as above
   - TTE, as above
   #ETOH abuse
   - discontinue CIWA as outside window of withdrawal
   - MVI, folate, thiamine
   #CKD: Creatinine likely at baseline
   - Restart ACEi, lasix
   - pre-contrast hydration and mucomyst
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2158-9-30**] 09:56 PM
   18 Gauge - [**2158-9-30**] 09:56 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI
confirmed [**10-2**]
   Disposition: pending clinical improvement, o2 requirement currently too
   high for floor

2158-10-03 08:56:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - CTA: no PE, worsening subpleural /basilar infiltrates
   - TTE: RV HK/PAH
   Allergies:
   Ibuprofen
   Anaphylaxis; pt
   Nsaids
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2158-10-3**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-10-3**] 08:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 35.6
C (96
   HR: 96 (82 - 109) bpm
   BP: 140/86(97) {119/57(72) - 173/116(128)} mmHg
   RR: 16 (8 - 31) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 267.2 kg (admission): 125 kg
             Total In:
                                                                  2,641 mL
                                                                    320 mL
   PO:
                                                                    960 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,681 mL
                                                                    200 mL
   [**Known lastname **] products:
   Total out:
                                                                  2,000 mL
                                                                    450 mL
   Urine:
                                                                  2,000 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    641 mL
                                                                   -130 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 89%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : Bibasilar R>L)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   12.8 g/dL
   205 K/uL
   211 mg/dL
   1.6 mg/dL
   24 mEq/L
   4.7 mEq/L
   16 mg/dL
   103 mEq/L
   138 mEq/L
   38.3 %
   5.5 K/uL
        [image002.jpg]
                            [**2158-9-30**]  09:17 PM
                            [**2158-9-30**]  09:35 PM
                             [**2158-10-1**]  04:03 AM
                             [**2158-10-2**]  04:52 AM
                             [**2158-10-3**]  04:04 AM
   WBC
   8.2
   7.6
   8.1
   5.5
   Hct
   36.4
   37.2
   36.9
   38.3
   Plt
   [**Telephone/Fax (3) 9733**]05
   Cr
   1.8
   1.8
   1.7
   1.6
   TropT
   <0.01
   <0.01
   TCO2
   23
   Glucose
   124
   130
   117
   211
   Other labs: PT / PTT / INR:12.9/22.3/1.1, CK / CKMB /
   Troponin-T:66//<0.01, Lactic Acid:2.1 mmol/L, Ca++:8.6 mg/dL, Mg++:2.1
   mg/dL, PO4:2.8 mg/dL
   Imaging: CTA - 1)No pulmonary embolism, aortic dissection or aneurysm.
   2)Significant progression of the predominantly subpleural abnormality
   associated with traction bronchiolectasis, reticulation, and new
   diffuse ground-glass opacities in the presence of significant
   enlargement of the hilar and mediastinal lymph nodes is worrying for
   and acute progression of IPF- UIP. 3)Borderline pulmonary arterial
   enlargement suggests mild pulmonary arterial hypertension.
   Microbiology: No new micro data.
   Assessment and Plan
   61M with IPF and emphysema complicated by pulmonary hypertension on
   home oxygen transferred from OSH after being admitted following a
   syncopal episode for further evaluation and management of hypoxemia.
   SOB has been progressively worsening over past few months with an acute
   worsening over past week.
    #Hypoxemia - suspected acute exacerbation of IPF as no evidence of
   underlying infection or left heart failure
   - Supplemental O2 to maintain O2sat>92%
   - High dose steroids
   - Cont NAc, symbicort, spiriva, nebs prn
   - RHC in future. [**Month (only) 8**] consider PDE5 inhibitor or endothelin receptor
   antagonist therapy for pulmonary hypertension pending RHC results.
   #Syncope - most likely due to hypoxemia or worsening pulm HTN.  Other
   potential etiologies include PE (r/o with CT), cardiac ischemia (r/o
   with enzymes), arrhythymia (on tele).
   #CKD: Creatinine likely at baseline
   - Restart ACEi, lasix
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2158-9-30**] 09:56 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 20 minutes